US07078405B2
Methyl 2-chloro-3-oxopentanoate (7 mL) was added to a solution of the resulting 4-(2,4-dimethylphenyl)-6-methyl-3-pyridazinamine in N,N-dimethylformamide (60 mL), and the mixture was heated at 140° C. for 6 hours. Water was added thereto, which was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and evaporated, to give 8-(2,4-dimethylphenyl)-2-ethyl-6-methylimidazo[1,2-b]pyridazine-3-carboxylic acid methyl ester as a crude product.

reactant | Methyl 2-chloro-3-oxopentanoate | 7 mL | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
reactant | 4-(2,4-dimethylphenyl)-6-methyl-3-pyridazinamine | CC1=C(C=CC(=C1)C)C1=C(N=NC(=C1)C)N | C13H15N3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 8-(2,4-dimethylphenyl)-2-ethyl-6-methylimidazo[1,2-b]pyridazine-3-carboxylic acid methyl ester | COC(=O)C1=C(N=C2N1N=C(C=C2C2=C(C=C(C=C2)C)C)C)CC | C19H21N3O2
